US06977260B2
p-Toluenesulfonic acid hydrate (289 mg, 1.52 mmol) was added to a solution of (4-[(R)-2-(1-ethoxy-ethoxymethyl)-6-oxo-piperidin-1-yl]-but-2-ynyloxy}-acetic acid methyl ester (494 mg, 1.45 mmol) in MeOH (5.0 mL) at rt. After 20 h at rt, the mixture was concentrated in vacuo, treated with saturated aqueous NaHCO3 (20 mL) and extracted with CH2Cl2 (3×20 mL). The combined organic phase was dried (MgSO4), filtered and concentrated in vacuo. Purification of the residue by flash column chromatography on silica gel (CH2Cl2 →3% MeOH/CH2Cl2, gradient) afforded 100 mg (26%) of [4-((R)-2-hydroxymethyl-6-oxo-piperidin-1-yl)-but-2-ynyloxy]-acetic acid methyl ester.

reactant | p-Toluenesulfonic acid hydrate | 1.52 mmol, 289 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | (4-[(R)-2-(1-ethoxy-ethoxymethyl)-6-oxo-piperidin-1-yl]-but-2-ynyloxy}-acetic acid methyl ester | 1.45 mmol, 494 mg | COC(COCC#CCN1[C@H](CCCC1=O)COC(C)OCC)=O | C17H27NO6
solvent | MeOH | 5.0 mL | CO | CH4O
product | [4-((R)-2-hydroxymethyl-6-oxo-piperidin-1-yl)-but-2-ynyloxy]-acetic acid methyl ester | 100 mg, 26% | COC(COCC#CCN1[C@H](CCCC1=O)CO)=O | C13H19NO5
